US07687435B2
1.1) Ethyl 2-amino-3-oxo-3-o-tolylpropionate hydrochloride
Under nitrogen, 4.2 g (0.038 mol) of potassium tert-butoxide were suspended in THF. The mixture was cooled to −78° C., and 10.0 g (0.037 mol) of ethyl N-(diphenylmethylene)glycinate, dissolved in THF, were added dropwise. After 40 min at −78° C., the solution was transferred into a cooled dropping funnel (−78° C.) and added dropwise to a solution, cooled to −78° C., of 2-methylbenzoyl chloride in THF. After 1 h of stirring at −78° C., the reaction mixture was allowed to warm to 0° C. over a period of 2 h. The mixture was hydrolyzed using 10% strength hydrochloric acid, and stirring was continued. The solvents were removed and the residue was taken up in water and washed with MTBE. The aqueous phase was concentrated, methanol was added to the residue and the mixture was filtered. Concentration of the filtrate gave 6.2 g of the title compound as a colorless oil.

reactant | potassium tert-butoxide | 0.038 mol, 4.2 g | CC(C)([O-])C.[K+]
reactant | ethyl N-(diphenylmethylene)glycinate | 0.037 mol, 10.0 g | C1(=CC=CC=C1)C(=NCC(=O)OCC)C1=CC=CC=C1 | C17H17NO2
reactant | 2-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 2-amino-3-oxo-3-o-tolylpropionate hydrochloride | 6.2 g | Cl.NC(C(=O)OCC)C(C1=C(C=CC=C1)C)=O | InChI=1S/C12H15NO3.ClH/c1-3-16-12(15)10(13)11(14)9-7-5-4-6-8(9)2;/h4-7,10H,3,13H2,1-2H3;1H
